US04182887
3-Amino-1-benzyl-6-morpholino-4-phenyl-1H-pyrazolo[3,4-b]pyridine
A mixture consisting of 3.0 gm (0.01 mol) of 2-chloro-6-morpholino-4-phenyl-3-cyano-pyridine, 3.7 gm (0.03 mol) of benzyl-hydrazine and 30 ml of ethylene glycol was refluxed for 5 hours at about 130° C. The resulting solution was taken up in 100 ml of water, whereupon the reaction product separated out as a pasty precipitate which was collected and immediately recrystallized from methanol. 2.2 gm (57% of theory) of the compound named in the heading were obtained; after recrystallization from ethyl acetate it had a melting point of 147°-150° C.

reactant | 2-chloro-6-morpholino-4-phenyl-3-cyano-pyridine | 0.01 mol, 3.0 gm | ClC1=NC(=CC(=C1C#N)C1=CC=CC=C1)N1CCOCC1 | C16H14ClN3O
reactant | benzyl-hydrazine | 0.03 mol, 3.7 gm | C(C1=CC=CC=C1)NN | C7H10N2
reactant | ethylene glycol | 30 ml | C(CO)O | C2H6O2
solvent | water | 100 ml | O | H2O
product | 3-Amino-1-benzyl-6-morpholino-4-phenyl-1H-pyrazolo[3,4-b]pyridine | NC1=NN(C2=NC(=CC(=C21)C2=CC=CC=C2)N2CCOCC2)CC2=CC=CC=C2 | C23H23N5O
